US05360906
Ethylenediamine (10 g) was dissolved in acetonitrile (30 ml), and a solution of 3-chloro-5-bromomethylisoxazole (11.3 g) in acetonitrile (10 g) was added dropwise at 10° C.-15° C. The reaction mixture was then allowed to reach ambient temperature over 1 hour, decanted from a gummy precipitate and the acetonitrile removed by evaporation to give an orange oil, N-(3-chloroisoxazolylmethyl)ethylene diamine. The orange oil (8.7 g) was dissolved in ethanol (20 ml) and added to a suspension of 1-nitro-2,2-bis(methylthio)ethylene (8 g) in ethanol (50 ml) and the reaction mixture refluxed, with stirring, until evolution of methylmercaptan ceased (about 11/2 hours). Thin layer chromatography indicated two products. The solvent was removed in vacuo, and the residue thin-layer chromatographed to give the title compound as a colorless solid (5.9 g), m.p. after recrystallization was 173° C.

reactant | Ethylenediamine | 10 g | C(CN)N | C2H8N2
reactant | 3-chloro-5-bromomethylisoxazole | 11.3 g | ClC1=NOC(=C1)CBr | C4H3BrClNO
reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | acetonitrile | 10 g | C(C)#N | C2H3N
product | N-(3-chloroisoxazolylmethyl)ethylene diamine | ClC1=NOC=C1CNCCN | C6H10ClN3O
